US07217723B2
N-(5-Acetyl-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl)-propionic acid amide
To a solution of 5-acetyl-2-amino-thiophene-3-sulfonic acid [2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-amide (the compound of Preparation Example 99) (150 mg) and triethylamine (557 μL) in tetrahydrofuran was added propionic acid chloride (195 μL) in small amounts. After stirring at room temperature for 2 hours, triethylamine (557 μL) and propionic acid chloride (195 μL) were further added, and the solution was stirred for 30 minutes. Water was added to the reaction solution, the solution was extracted with ethyl acetate, and the organic layer was dried with anhydrous magnesium sulfate. The residue resulting from the removal of the solvent by evaporation was purified by silica gel column chromatography (hexane/ethyl acetate), and the title compound (75 mg) was obtained as a colorless solid.

reactant | 5-acetyl-2-amino-thiophene-3-sulfonic acid [2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-amide | FC1=CC=C(C=C1)C(CN(S(=O)(=O)C1=C(SC(=C1)C(C)=O)N)C)O | C15H17FN2O4S2
reactant | triethylamine | 557 μL | C(C)N(CC)CC | C6H15N
reactant | propionic acid chloride | 195 μL | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 557 μL | C(C)N(CC)CC | C6H15N
reactant | propionic acid chloride | 195 μL | C(CC)(=O)Cl | C3H5ClO
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(5-Acetyl-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl)-propionic acid amide | 75 mg | C(C)(=O)C1=CC(=C(S1)NC(CC)=O)S(N(C)CC(O)C1=CC=C(C=C1)F)(=O)=O | C18H21FN2O5S2
